US08431563B2
To a 100-mL round-bottomed flask was added (2-methoxy-3-pyridinyl)methanol (1.12 g, 8.05 mmol), triphenylphosphine (2.32 g, 8.85 mmol, Aldrich, St. Louis, Mo.) and carbon tetrabromide (0.86 mL, 8.85 mmol, Aldrich, St. Louis, Mo.) in DCM (20 mL). The reaction mixture was stirred at room temperature for 3 h. The solvent was removed in vacuo and the residue was purified by silica gel chromatography, eluting with 20% EtOAc/hexanes to give 3-(bromomethyl)-2-methoxypyridine (1.10 g) as a colorless oil.

reactant | (2-methoxy-3-pyridinyl)methanol | 8.05 mmol, 1.12 g | COC1=NC=CC=C1CO | C7H9NO2
reactant | triphenylphosphine | 8.85 mmol, 2.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 8.85 mmol, 0.86 mL | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(bromomethyl)-2-methoxypyridine | 1.10 g | BrCC=1C(=NC=CC1)OC | C7H8BrNO
